US08232294B2
(R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate hydrochloride
The title compound was prepared according to the procedure described in Example 39 step 3 by using (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenyl-carbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(methyl-amino)acetate (82.3 mg, 0.134 mmol) and a saturated solution of HCl/EtOAc (3 mL). The title compound was abtained as a yellow solid (64.5 mg, 70%).

reactant | (R)-1-(4-(4-(7-methoxyquinolin-4-yloxy)-3-fluorophenyl-carbamoyl)-2,3-dihydro-5-methyl-3-oxo-2-phenylpyrazol-1-yl)propan-2-yl 2-(methyl-amino)acetate | 0.134 mmol, 82.3 mg | CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C | C33H32FN5O6
reactant | HCl EtOAc | 3 mL | Cl.CCOC(=O)C
product | (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(methylamino)acetate hydrochloride | Cl.CNCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C | InChI=1S/C33H32FN5O6.ClH/c1-20(44-30(40)18-35-3)19-38-21(2)31(33(42)39(38)23-8-6-5-7-9-23)32(41)37-22-10-13-29(26(34)16-22)45-28-14-15-36-27-17-24(43-4)11-12-25(27)28;/h5-17,20,35H,18-19H2,1-4H3,(H,37,41);1H/t20-;/m1./s1
